US08039472B2
(E)-N-(8-(1H-indole-4-carbonyl)-8-azaspiro[bicyclo[3.2.1]octane-3,4′-imidazolidine]-2′-ylidene)-3,5-diamino-6-chloropyrazine-2-carboxamide
(E)-3,5-diamino-6-chloro-N-(8-azaspiro[bicyclo[3.2.1]octane-3,4′-imidazolidine]-2′-ylidene)pyrazine-2-carboxamide (170 mg, 0.49 mmol) is dissolved in DMF (10 ml) along with HATU (184 mg, 0.49 mmol) and 4-indole-carboxylic acid (78 mg, 0.49 mmol). N-Methyl morpholine (160 ml, 1.45 mmol) is added and the solution stirred at room temperature overnight. The mixture is then concentrated in vacuo. EtOAc (100 ml) is added and the solution washed with water (100 ml). The organic phase is dried (MgSO4) and concentrated in vacuo. Purification by flash chromatography (SiO2, DCM/MeOH) gives the title compound as a yellow solid; [M+H]+ 494.15, 496.27 for Cl isotopes.

reactant | (E)-3,5-diamino-6-chloro-N-(8-azaspiro[bicyclo[3.2.1]octane-3,4′-imidazolidine]-2′-ylidene)pyrazine-2-carboxamide | 0.49 mmol, 170 mg | NC=1C(=NC(=C(N1)N)Cl)C(=O)/N=C/1\NCC2(N1)CC1CCC(C2)N1 | C14H19ClN8O
reactant | HATU | 0.49 mmol, 184 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-indole-carboxylic acid | 0.49 mmol, 78 mg | N1C=CC=2C(=CC=CC12)C(=O)O | C9H7NO2
reactant | N-Methyl morpholine | 1.45 mmol, 160 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (E)-N-(8-(1H-indole-4-carbonyl)-8-azaspiro[bicyclo[3.2.1]octane-3,4′-imidazolidine]-2′-ylidene)-3,5-diamino-6-chloropyrazine-2-carboxamide | N1C=CC=2C(=CC=CC12)C(=O)N1C2CC3(N\C(\NC3)=N\C(=O)C3=NC(=C(N=C3N)N)Cl)CC1CC2 | C23H24ClN9O2
